US09315489B2
4-(2-Hydroxyethoxy)-3-(pyrimidin-5-yl)-N-(4-(trifluoromethoxy)phenyl)benzamide
A suspension of 3-bromo-4-hydroxy-N-(4-(trifluoromethoxy)phenyl)benzamide (50 mg, 0.133 mmol), 2-bromoethyl acetate (21.94 μL, 0.199 mmol) and powdered K2CO3 (92 mg, 0.665 mmol) in acetone (500 μL) was stirred at 75° C. for 16 h and the solvent was evaporated off under reduced pressure. The residue, together with pyrimidin-5-ylboronic acid (57.61 mg, 0.465 mmol), Pd(PPh3)2Cl2 (18.66 mg, 0.026 mmol) water (125 μL), EtOH (62 μL) and DME (550 μL) were added to a vial, which was sealed, evacuated/purged with argon and the RM stirred at 80° C. for 20 h. The RM was diluted with THF (3 mL) then stirred with Si-Thiol (Silicycle, 105 mg, 0.133 mmol) for 2 h, filtered and the filtrate was evaporated off under reduced pressure to give the crude product which was purified by flash chromatography (Silica gel column, 12 g, cyclohexane/EtOAc from 30% to 95% EtOAc) to afford the acylated product, which was treated with aq. 4 M NaOH (138 μL, 0.552 mmol) and MeOH (250 μL) at and stirred at RT for 4 h. The RM was acidified with TFA and purified by preparative HPLC (Condition 8, 50% for 0.2 min then 50% to 80% in 14 min) to afford the title compound as a beige solid. UPLC-MS (Condition 1) tR=2.24 min, m/z=420.0 [M+H]+, m/z=418 [M−H]−; 1H-NMR (400 MHz, DMSO-d6) δ ppm 3.64-3.82 (m, 2H) 4.21 (t, J=4.6 Hz, 2H) 4.91 (t, J=5.4 Hz, 1H) 7.32-7.41 (m, 3H) 7.88 (d, J=9.0 Hz, 2H) 8.07 (dd, J=8.8, 2.2 Hz, 1H) 8.12 (d, J=2.2 Hz, 1H) 9.13 (s, 2H) 9.18 (s, 1H) 10.32 (s, 1H).

reactant | 3-bromo-4-hydroxy-N-(4-(trifluoromethoxy)phenyl)benzamide | 0.133 mmol, 50 mg | BrC=1C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=CC1O | C14H9BrF3NO3
reactant | 2-bromoethyl acetate | 0.199 mmol, 21.94 μL | C(C)(=O)OCCBr | C4H7BrO2
reactant | K2CO3 | 0.665 mmol, 92 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | pyrimidin-5-ylboronic acid | 0.465 mmol, 57.61 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | NaOH | 0.552 mmol, 4 M, 138 μL | [OH-].[Na+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | acetone | 500 μL | CC(=O)C | C3H6O
catalyst | Pd(PPh3)2Cl2 | 0.026 mmol, 125 μL, 18.66 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | MeOH | 250 μL | CO | CH4O
solvent | DME | 550 μL | COCCOC | C4H10O2
solvent | EtOH | 62 μL | CCO | C2H6O
product | 4-(2-Hydroxyethoxy)-3-(pyrimidin-5-yl)-N-(4-(trifluoromethoxy)phenyl)benzamide | OCCOC1=C(C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=C1)C=1C=NC=NC1 | C20H16F3N3O4
